US05262390
Gaseous hydrogen chloride was bubbled into a mixture of 3.29 g (0.0146 mole) of tin(II) chloride in 40 mL of acetic acid for about five minutes, causing it to become a clear solution. This solution was then heated to 85° C., and a hot solution of 1.66 g (0.00485 mole) of 4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorophenylsulfonyl chloride was added to the first solution. This reaction mixture was heated at 85° C. for 45 minutes. After cooling to room temperature, the resulting yellow solution was poured into 120 mL of hydrochloric acid. To this mixture was added 100 mL of a saturated aqueous solution of sodium chloride, and the resulting mixture was extracted with ethyl acetate, but the layers did not separate. The addition of a saturated aqueous solution of sodium chloride did effect a partial separation. The aqueous layer was extracted two more times with ethyl acetate, and all extracts were combined. After evaporation of the solvent under reduced pressure, the residue retained an odor of hydrochloric acid. Water was added to the residue, and this mixture was extracted three times with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate, and filtered. Following evaporation of the solvent under reduced pressure, the yellow residue that remained was dried under vacuum. This dried residue was placed on a column of silica gel and eluted with methylene chloride/ethyl acetate (2:1). After being dried under vacuum for several hours, 0.81 g of 4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorothiophenol was isolated as a yellow syrup. The NMR spectrum was consistent with the proposed structure. This reaction was repeated to obtain additional product for subsequent reactions.

reactant | hydrogen chloride | Cl | ClH
reactant | tin(II) chloride | 0.0146 mole, 3.29 g | [Sn](Cl)Cl
reactant | 4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorophenylsulfonyl chloride | 0.00485 mole, 1.66 g | FC(N1C(=NN(C1=O)C1=C(C=C(C=C1)S(=O)(=O)Cl)F)C)F | C10H7ClF3N3O3S
reactant | hydrochloric acid | 120 mL | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorothiophenol | 0.81 g | FC(N1C(=NN(C1=O)C1=C(C=C(C=C1)S)F)C)F | C10H8F3N3OS
